US04017510
Following the procedure described in Example 1 and sodium hydride as the base, but substituting (-)-α-isopropyl-α-methyl-1,3-dioxo-2-isoindolineacetamide for the racemic compound, the product (+)-3-isopropyl-3-methyl-5H-imidazo[2,1-a] isoindole-2(3H),5-dione is obtained, melting point 137.5°-139° C, [α]D25 +64.54 (THF, C 0.097).

reactant | sodium hydride | [H-].[Na+]
reactant | (-)-α-isopropyl-α-methyl-1,3-dioxo-2-isoindolineacetamide | C(C)(C)C(C(=O)N)(N1C(C2=CC=CC=C2C1=O)=O)C | C14H16N2O3
product | (+)-3-isopropyl-3-methyl-5H-imidazo[2,1-a] isoindole-2(3H),5-dione | C(C)(C)C1(C(N=C2N1C(C1=CC=CC=C21)=O)=O)C | C14H14N2O2
